US06790860B2
To 17.31 g (36.32 mmol) (2S,4R)-2-[(2,5-difluoro-benzylimino)-methyl]-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester in 120 ml MeOH were added 1.64 g (43.58 mmol, 1.2 eq) NaBH4 slowly at 40° C. The solution was stirred at that temperature for additional 90 min, water was added carefully and the solution was concentrated. The residue was redissolved in EtOAc and washed with NaHCO3 and brine, dried over Na2SO4 and evaporated. Flash chromatography with EtOAc/hexane 1:1 yielded 11.57 g (67%) (2S,4R)-2-[(2,5-difluoro-benzylamino)-methyl]-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as yellow oil, MS: 479 (MH+).

reactant | (2S,4R)-2-[(2,5-difluoro-benzylimino)-methyl]-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 36.32 mmol, 17.31 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SCC1=CC=C(C=C1)OC)C=NCC1=C(C=CC(=C1)F)F | C25H30F2N2O3S
reactant | NaBH4 | 43.58 mmol, 1.64 g, 1.2 eq | [BH4-].[Na+]
reactant | water | O | H2O
solvent | MeOH | 120 ml | CO | CH4O
product | (2S,4R)-2-[(2,5-difluoro-benzylamino)-methyl]-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 11.57 g, 67% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SCC1=CC=C(C=C1)OC)CNCC1=C(C=CC(=C1)F)F | C25H32F2N2O3S
